US08980877B2
Intermediate 1: (±)-(E)-3-[4-oxo-spiro(chromane-2,3′-pyrrolidine)-6-yl]-acrylic acid methyl ester
4 M HCl in dioxane (10 ml, 80 mmol) was added to a solution of (±)-(E)-3-[1′-tert-butoxycarbonyl-4-oxo-spiro(chromane-2,3′-pyrrolidine)-6-yl]-acrylic acid methyl ester (4.30 g, 11.2 mmol) in DCM (15 ml) and the mixture was stirred at RT for 1 h. The precipitate was filtered off, washed with DCM, dried under vacuum and collected (3.3 g) as a white solid (hydrochloride salt). Y=92%

reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 80 mmol, 10 ml | O1CCOCC1 | C4H8O2
reactant | (±)-(E)-3-[1′-tert-butoxycarbonyl-4-oxo-spiro(chromane-2,3′-pyrrolidine)-6-yl]-acrylic acid methyl ester | 11.2 mmol, 4.30 g | COC(\C=C\C=1C=C2C(CC3(CN(CC3)C(=O)OC(C)(C)C)OC2=CC1)=O)=O | C21H25NO6
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | (±)-(E)-3-[4-oxo-spiro(chromane-2,3′-pyrrolidine)-6-yl]-acrylic acid methyl ester | COC(\C=C\C=1C=C2C(CC3(CNCC3)OC2=CC1)=O)=O | C16H17NO4
